US08008303B2
Cyclopropanecarboxylic acid (3-bromo-4-methyl-phenyl)-amide
A mixture of 3-bromo-4-methylaniline (100 mg), cyclopropanecarbonyl chloride (98 mg) and N-methylmorpholine (0.12 ml) in dry dichloromethane (2 ml) was stirred at 20 C for 18 h. The mixture was then partitioned between saturated sodium bicarbonate solution and dichloromethane. The dried extracts were evaporated giving a solid which was used without purification in the next synthetic step (120 mg).

reactant | 3-bromo-4-methylaniline | 100 mg | BrC=1C=C(N)C=CC1C | C7H8BrN
reactant | cyclopropanecarbonyl chloride | 98 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N-methylmorpholine | 0.12 ml | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Cyclopropanecarboxylic acid (3-bromo-4-methyl-phenyl)-amide | BrC=1C=C(C=CC1C)NC(=O)C1CC1 | C11H12BrNO
